US05099019
PREPARATION A 29 4-(Benzo[b]thien-2-yl)piperazine
2-Chlorobenzothiazole (5 g) is heated in ethanol (75 ml) with piperazine (3.05 g) for 20 h. The mixture is partitioned between methylene chloride/ether and aqueous sodium bicarbonate. The organic phase is separated, dried with sodium sulfate and concentrated to give the title compound.

reactant | 2-Chlorobenzothiazole | 5 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | piperazine | 3.05 g | N1CCNCC1 | C4H10N2
reactant | ethanol | 75 ml | C(C)O | C2H6O
product | 4-(Benzo[b]thien-2-yl)piperazine | S1C2=C(C=C1N1CCNCC1)C=CC=C2 | C12H14N2S
